US09084794B2
d) tert-Butyl 4-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
To a solution of tert-butyl 4-((N-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-2-chloroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate (1.511 mmol) in anhydrous tetrahydrofuran (20 mL) was added 60% sodium hydride in mineral oil (3.02 mmol) in one portion. The suspension was heated at reflux for 1 h then cooled, quenched with water (1 mL), and evaporated to dryness in vacuo. Purification of the residue by flash chromatography (20-80% ethyl acetate in hexanes) afforded the title product (450 mg, 64% yield) as a colorless oil. MS(ES)+ m/e 455.3 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 0.03 (s, 6 H) 0.76-0.98 (m, 13 H) 1.47 (s, 11 H) 1.70-1.89 (m, 2 H) 2.90-3.18 (m, 2 H) 3.35 (s, 2 H) 3.70 (br. s., 2 H) 3.85 (br. s., 2 H) 4.11 (s, 2 H).

reactant | tert-butyl 4-((N-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-2-chloroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate | 1.511 mmol | [Si](C)(C)(C(C)(C)C)OCC1(CC1)N(C(CCl)=O)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C23H43ClN2O5Si
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | 450 mg, 64% yield | [Si](C)(C)(C(C)(C)C)OCC1(CC1)N1C(COC2(C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C23H42N2O5Si
